US06025350
5-(N-(carbobenzyloxy)amino)-5-(2-methoxyphenyl)-1-pentene
To a solution of crude 5-amino-5-(2-methoxyphenyl)-1-pentene (1.63 g) in CH2Cl2 (10 mL) at 0° C. was added DMAP (1.15 g, 9.38 mmol) followed by Cbz-Cl (1.34 mL, 9.38 mmol) and the resulting solution was stirred at room temperature overnight. Ether was added, the aqueous layer was extracted with diethyl ether (x4), and the combined organic layers was washed with brine, dried over MgSO4 and evaporated in vacuo. The crude product was purified by silica gel flash chromatography (5% EtOAc-95% hexanes) to provide the title compound as a white solid (1.84 g). 1H NMR (CDCl3, 400 MHz) δ: 3.82 (3H, s, OMe), 2.0 (4H, m).

reactant | 5-amino-5-(2-methoxyphenyl)-1-pentene | 1.63 g | NC(CCC=C)C1=C(C=CC=C1)OC | C12H17NO
reactant | Cbz-Cl | 9.38 mmol, 1.34 mL | C1=CC=C(C=C1)COC(=O)Cl | C8H7ClO2
reactant | Ether | CCOCC | C4H10O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 9.38 mmol, 1.15 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(N-(carbobenzyloxy)amino)-5-(2-methoxyphenyl)-1-pentene | 1.84 g | C(=O)(OCC1=CC=CC=C1)NC(CCC=C)C1=C(C=CC=C1)OC | C20H23NO3
